data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,10142,"C=[O+:1][Si-:2](C)(C)(C)C(C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,7117,"CC(=O)N1CCOC23C=C(O[S:1](=O)(C(F)(F)F)([N:2](C4=CC=CC=C4)S(=O)(=O)C(F)(F)F)[O-:3])C(=O)C2(CCC24OC23CC(O[Si](C)(C)C(C)(C)C)C2CC(O[Si](C)(C)C(C)(C)C)CCC24)C1.CC(C)(C)[Si](C)(C)F.CN(C)S(N(C)C)=[N+](C)C.C[Si](C)(C)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7966,"CCCC[N+](CCCC)(CCCC)CCCC.C[Si:1](C)(C)CC#CCC(CC=O)C1=CC=CC=C1.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,5226,"CCOCC.NC(CC1=CC=C(O)C=C1)(C1=C(O)C=C(O)C=C1O)[OH+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9311,"C[P:1](C)C.[I][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,8792,"CC(=O)CC1C(=O)CCC[C:1]1=[O:2].CC(=O)O.[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5405,"CC(=O)[CH:1]([H:2])[CH+:3]C1=CC=CC=C1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,2136,"CC(=O)[O-].CC12CC[C:1](=[N+:2]3CCCC3C(=O)O)C=C1CCC2=O.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1072,"CC1=CC=C(C(=O)[O:1][H:2])C=C1.C[Si]1(C)CCC2C(C1)[O:3]2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9365,"C=CC(=O)[O:1][C:2](C)(CC(C)=[N+]1CCCC1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5648,"C1=CC=[NH+]C=C1.O=C1CC[C:1]2(COCC3=CC=CC=C3)C1[Br+:2]2.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9640,"CC[CH:1]=[CH:2][C:3]([O][Na])=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2011,"CC1=CC=C(S(=O)(=O)[N:1](N=C2CC3C(CCC4C(C)(C)C(O[Si](C)(C)C(C)(C)C)CCC34C)C(C)C2C)[H:2])C=C1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2973,"C=CCOC1OC(COC(C)=O)C([O+:1]=[C:2](C)C)C(O)C1OC(C)=O.CC(=O)[O-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8555,"C[C:1](=[CH2:2])[O-:3].C[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 1);((1, 2), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,579,"CCO[C:1](CCCC[CH:2]=[C:3](OCC)[O-:4])=[O:5]|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,584,"CC(CCCO[Si](C)(C)C(C)(C)C)C1CC[CH:1]([H:2])[C:3]1=[O+:4][Li-][N:5](C(C)C)C(C)C|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1874,"CC[O+](CC)[Si-:1](C)(C)(C)[CH2:2][C+:3]1CC(CCO[Si](C(C)C)(C(C)C)C(C)C)OC(CC(CC2OC(CCOCC3=CC=CC=C3)CCC2C)O[B-](F)(F)F)C1|((1, 2), 3)"
train,pmechdb_split_0,0,585,"CCO[C:1](C)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9221,"C1=CC=[N:1]C=C1.CC(C1=CN=CC=C1)=[N+:2](O)[H:3].O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4318,"CO[C+:1]1C(Br)=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4247,"C[Si](C)(C)C[CH:1]=[CH2:2].[Fe-][O+:3]=[CH2:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,6643,"BrC(Br)Br.COC(=O)CCCC#CCC#CCO[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9543,"N[C:1]1([O-:2])OCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6148,"CC(=O)[O:1][H:2].C[O:3]C(O)C1CCC2(CC1)OCCO2.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10326,"COC(=O)N([P+](C)(C)C)[N:1]=C([O-])OC.[N-]=[N+]=[N:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1648,"O[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5773,"OC1CCCCC1CN=N[OH:1].[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5121,"C1CC[NH:1]CC1.CC(=O)O.CC(C)(C)CC(=O)CC#N.CC1=CC=C([CH:2]=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1240,"CC[C:1](C)=[CH:2]C.[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5879,"CC#N.CS(=O)(=O)OCC1C[O:1]1.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,2735,"COC1C2C=CC1C([CH2:1][S+:2](C)(C)=O)([O-:3])C2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3239,"CC(C(=O)N1C(=O)OCC1CC1=CC=CC=C1)C(O)C1=CC=CC=C1.O[O:1][H:2].[Li:3][OH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9582,"CC(=O)[O-].CC[OH+:1][CH:2](N1CCN(C2=C(F)C=C3C(=O)C(C(=O)O)=CN(C4CC4)C3=C2)CC1)[NH:3]NC(=O)C1=CC=C(F)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9620,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.O=C1CC(C(OCC2=CC=CC=C2)=[O+:1][H:2])C1.OCC1=CC=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10259,"C[Si-:1](C)(C)([OH2+])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2959,"CC(=O)O.COC1=CC=C(COC2C(C3=C(OC)N=C(OC)N=C3)OC3C(N=[N+]=[N-])C(O[I:1]4(OC(C)=O)([O:2]C(C)=O)OC(=O)C5=C4C=CC=C5)COC23)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,6823,"C[O:1][Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,5458,"C[C:1](CCC=C[O-])([NH+:2]1CCCC1)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5110,"CC[O+:1](P(C)(C)(C)N(NC(=O)OC)C(=O)OC)[H:2].[N-]=[N+]=[N-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3358,"C[O+](C)[Si-:1](C)(C)(C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,14,"C1CC[CH:1]([OH2+:2])CC1.C=CC#N.O|((1, 2), 2)"
train,pmechdb_split_0,0,4158,"C=C[N+:1](C)(C)[H:2].C=[C:3](C)[Mg:4][Br]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8422,"C=C[CH2+:1].[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,6913,"CC(C)[CH:1](CCC1=CCCC1)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6676,"OCC[N+]1([C:1](=[N-:2])[Br:3])CCC2=C(C=CS2)C1C1=CC=CC=C1|(2, 1);((1, 3), 3)"
